US07241332B2
Diazotized 4-nitro-4′-aminostilbene-2,2-disulfonic acid and 3-aminonaphthalene-1-sulfonic acid were subjected to coupling. The resultant was turned into a triazole, and a nitro group of the triazole was reduced to an amino group by means of a conventionally known method to produce aminostilbene-triazole. Aminostilbene-triazole was dissolved into water, and sodium nitrite and hydrochloric acid were added dropwise to the solution to perform diazotization. The resultant was added dropwise to an aqueous solution of a compound represented by the following formula (α), and the whole was subjected to coupling, followed by dialysis with sodium chloride. The compound was diazotized with an aqueous solution of sodium nitrite, and was turned into a triazole by adding an aqueous solution of 6-aminonaphthalene-2-sulfonic acid. The triazole was dialyzed with sodium chloride to prepare a coloring material represented by the following formula (Y-a).

reactant | 4-nitro-4′-aminostilbene-2,2-disulfonic acid | [N+](=O)([O-])C1=CC(C(C=C1)C=CC1=CC=C(C=C1)N)(S(=O)(=O)O)S(=O)(=O)O | C14H14N2O8S2
reactant | 3-aminonaphthalene-1-sulfonic acid | NC=1C=C(C2=CC=CC=C2C1)S(=O)(=O)O | C10H9NO3S
reactant | triazole | N1N=NC=C1 | C2H3N3
product | aminostilbene triazole | NC1=C(C=CC=C1)C=CC1=CC=CC=C1.N1N=NC=C1 | InChI=1S/C14H13N.C2H3N3/c15-14-9-5-4-8-13(14)11-10-12-6-2-1-3-7-12;1-2-4-5-3-1/h1-11H,15H2;1-2H,(H,3,4,5)
